US07342118B2
2,6-Dimethyl-4-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-morpholine
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde was reacted with cis-2,6-dimethyl morpholine to provide the title compound: C13 NMR (100 MHz, CDCl3) 19.0, 25.7, 60.8, 61.5, 68.5, 72.0, 118.0, 134.5; MS m/z 283.2 (M+1).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde | CC(C=O)(C)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O3
reactant | cis-2,6-dimethyl morpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
product | 2,6-Dimethyl-4-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-morpholine | CC1CN(CC(O1)C)CC(C)(N1C=NC(=C1)[N+](=O)[O-])C | C13H22N4O3
